US07482375B2
Preparation 6b: 2-Chloro-1,3-dicyclopropyl-1,3-propanedione
The diketone described in Preparation 5 (700 g, 4.6 mol) was dissolved in dichloromethane (7 L) with chlorotrimethylsilane (549 g, 5.08 mol), at room temperature. The solution was stirred for 45 minutes, after which time it was cooled to 10 to 15° C. N-chlorosuccinimide (614 g, 4.6 mol) was then added portion-wise, keeping the temperature between 10 and 15° C. The reaction was then warmed to room temperature and stirred for a further 30 minutes. The reaction slurry was then filtered and the organic solution was washed twice with 2M hydrochloric acid (2×1.8 L), followed by two washes with water (2×4.6 L). The organic layer was then dried over anhydrous magnesium sulphate before being concentrated to an oil under vacuum to provide the title compound as a 2:3 mixture of keto:enol tautomers. (780 g, 91%)

reactant | chlorotrimethylsilane | 5.08 mol, 549 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | N-chlorosuccinimide | 4.6 mol, 614 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dichloromethane | 7 L | ClCCl | CH2Cl2
product | 2-Chloro-1,3-dicyclopropyl-1,3-propanedione | ClC(C(=O)C1CC1)C(=O)C1CC1 | C9H11ClO2
